US08686152B2
To a solution of piperidine-1,4-dicarboxylic acid 4-benzyl ester 1-tert-butyl ester (30.12 mmol; 9.62 g) in dry THF (100 mL) under argon at −78° C. was added, dropwise, a 2M solution of lithium diisopropylamide (2M solution in heptanes/THF/ethylbenzene; 39.16 mmol; 19.58 mL). The resulting solution was stirred at −78° C. for 2 hours. 4-Bromomethylbenzoic acid methyl ester (30.12 mmol; 6.90 g) was added and the resulting solution was stirred at −78° C. for 2 hours and allowed to warm to room temperature overnight. Ethyl acetate (150 ml) was added. The resulting solution was washed with a 1M aqueous hydrochloric acid solution (2×50 mL) and brine (50 mL) and dried over magnesium sulfate. After filtration and evaporation, the residue was purified via flash column chromatography (eluent gradient: 0 to 50% EtOAc in heptane) to yield 4-(4-methoxycarbonyl-benzyl)-piperidine-1,4-dicarboxylic acid 4-benzyl ester 1-tert-butyl ester. MS (ESI) m/z 468.20 [M+H]+.

reactant | piperidine-1,4-dicarboxylic acid 4-benzyl ester 1-tert-butyl ester | 30.12 mmol, 9.62 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)OCC1=CC=CC=C1 | C18H25NO4
reactant | lithium diisopropylamide | 39.16 mmol, 2M, 19.58 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | 4-Bromomethylbenzoic acid methyl ester | 30.12 mmol, 6.90 g | COC(C1=CC=C(C=C1)CBr)=O | C9H9BrO2
reactant | Ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 4-(4-methoxycarbonyl-benzyl)-piperidine-1,4-dicarboxylic acid 4-benzyl ester 1-tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)(C(=O)OCC1=CC=CC=C1)CC1=CC=C(C=C1)C(=O)OC | C27H33NO6
